US08685959B2
To a solution of 2′,4′-dichloroacetophenone (10.9 g, 77.0 mmol) in anhydrous THF (80 mL) at −78° C. under nitrogen was slowly added a solution of (+)-B-chlorodiisopinocampheylborane ((+)-Ipc2BCl, 27.2, 85.0 mmol) in THF (15 mL). After the addition is complete, the reaction mixture was slowly warmed to −25° C. and stirred at this temperature for 2 h. The reaction mixture was then quenched with diethanolamine (17.9 g, 170 mmol), and stirred for 10 min. During this time, a solid formed and it was filtered off. The filtrate was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified flash chromatography (SiO2, 0-20% ethyl acetate in hexanes) to give (R)-1-(2,4-dichlorophenyl)ethanol (12.0 g, 63.3 mmol, 82%).

reactant | 2′,4′-dichloroacetophenone | 77.0 mmol, 10.9 g | ClC1=C(C=CC(=C1)Cl)C(C)=O | C8H6Cl2O
reactant | (+)-B-chlorodiisopinocampheylborane | 85.0 mmol | B([C@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | diethanolamine | 170 mmol, 17.9 g | N(CCO)CCO | C4H11NO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-1-(2,4-dichlorophenyl)ethanol | 63.3 mmol, 12.0 g, 82% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)O | C8H8Cl2O
